US05919953
83.8 g 4-hydroxy-acetophenone and 0.576 g anhydrous potassium carbonate were placed in 600 ml xylol in a argon atmosphere and heated to 140° C. 162.3 g 1,1-diethoxy-3-methyl-2-butene (77.9% in ethanol) was added in drops over 5 hours to this boiling solution with continuous distillation of the ethanol formed. After the solution had been stirred for 18 hours at 140° C., it was cooled to 20° C. and the organic phase was washed with 200 ml NaOH (5%) and concentrated in a vacuum. The raw product (orange-coloured oil) is distilled under a high vacuum (2.8 mbar/143° C.). The 6-acetyl-2,2-dimethyl-2H-1-benzopyran distillate obtained (90.2 g, 71.3% yield) had a content of 94.9%.

reactant | potassium carbonate | 0.576 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1-diethoxy-3-methyl-2-butene | 162.3 g | C(C)OC(C=C(C)C)OCC | C9H18O2
reactant | ethanol | C(C)O | C2H6O
reactant | xylol | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-acetyl-2,2-dimethyl-2H-1-benzopyran | 71.3% yield | C(C)(=O)C=1C=CC2=C(C=CC(O2)(C)C)C1 | C13H14O2
